US07576215B2
[4-{3-[(5-NITRO-2-FURYL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromomethyl-5-nitro-furan following the procedure of Example 478: MS (ES) m/z 517.2.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromomethyl-5-nitro-furan | BrCC=1OC(=CC1)[N+](=O)[O-] | C5H4BrNO3
product | [4-{3-[(5-NITRO-2-FURYL)METHOXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | [N+](=O)([O-])C1=CC=C(O1)COC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C28H17F3N2O5
